US20010014691A1
3-Chloro-1-(3-methoxyphenoxy)propane
Under a nitrogen atmosphere, a solution of 3-methoxyphenol (2.00 g, 16.11 mmol) in DMF (10 mL) was slowly added over 5 min to a cold (0-5° C.), stirring slurry of sodium hydride (0.70 g of an 80% dispersion in mineral oil, 23.33 mmol) in DMF (15 mL). The mixture was allowed to warm to ambient temperature and further stirred for 1 h. To this slurry was added drop-wise over 5 min, 1-chloro-3-iodopropane (3.95 g, 19.32 mmol), and the resulting brown mixture was stirred at ambient temperature for 4 h. Cold water (25 mL) was carefully added, followed by saturated NaCl solution (25 mL). The resulting mixture was extracted with ether (4×50 mL). The combined ether extracts were dried (MgSO4), filtered, concentrated by rotary evaporation to a residue that was dried briefly under high vacuum producing a light-brown oil (3.27 g, quantitative yield).

reactant | 3-methoxyphenol | 16.11 mmol, 2.00 g | COC=1C=C(C=CC1)O | C7H8O2
reactant | sodium hydride | [H-].[Na+]
reactant | 1-chloro-3-iodopropane | 19.32 mmol, 3.95 g | ClCCCI | C3H6ClI
reactant | NaCl | 25 mL | [Na+].[Cl-]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | water | 25 mL | O | H2O
product | 3-Chloro-1-(3-methoxyphenoxy)propane | 3.27 g, quantitative yield | ClCCCOC1=CC(=CC=C1)OC | C10H13ClO2
